US09387200B2
e) 4-Hydroxy-3-phenyl-isothiazolo[5,4-c]pyridine-5-carboxylic acid ethyl ester
To a solution of 6-(2,4-dimethoxy-benzyl)-4-oxo-3-phenyl-4,5,6,7-tetrahydro-isothiazolo[5,4-c]pyridine-5-carboxylic acid ethyl ester (5.42 g, 11.99 mmol) in CH2Cl2 was added SOCl2 (1.31 mL, 17.98 mmol) and the mixture was stirred at r.t. After 3 h the mixture was filtered and the filter cake was washed with hexanes/CH2Cl2 (4/1, 12 mL). The solid was then suspended in sat. NaHCO3 (200 mL) and the mixture extracted with EtOAc (3×200 mL). The combined organic layers were washed with brine, water, dried over MgSO4, and concentrated in vacuo to give the title compound as yellow solid (2.56 g): MS (m/z) 301.1 (M+1).

reactant | 6-(2,4-dimethoxy-benzyl)-4-oxo-3-phenyl-4,5,6,7-tetrahydro-isothiazolo[5,4-c]pyridine-5-carboxylic acid ethyl ester | 11.99 mmol, 5.42 g | C(C)OC(=O)C1C(C2=C(CN1CC1=C(C=C(C=C1)OC)OC)SN=C2C2=CC=CC=C2)=O | C24H24N2O5S
reactant | SOCl2 | 17.98 mmol, 1.31 mL | O=S(Cl)Cl | Cl2OS
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-Hydroxy-3-phenyl-isothiazolo[5,4-c]pyridine-5-carboxylic acid ethyl ester | 2.56 g | C(C)OC(=O)C=1C(=C2C(=CN1)SN=C2C2=CC=CC=C2)O | C15H12N2O3S
